** Sinewave generator **
* 
* NI Multisim to SPICE Netlist Export
* Generated by: levuo
* Mon, Jun 24, 2024 14:13:18 
*

*## Multisim Instrument XSC1 ##*


*## Multisim Component R7 ##*
rR7 5 0 650 vresR7  
.model vresR7 r(  )

*## Multisim Component R6 ##*
rR6 6 0 650 vresR6  
.model vresR6 r(  )

*## Multisim Component R5 ##*
rR5 7 0 650 vresR5  
.model vresR5 r(  )

*## Multisim Component R2 ##*
rR2 3 0 220 vresR2  
.model vresR2 r(  )

*## Multisim Component C6 ##*
cC6 7 4 1e-08

*## Multisim Component C5 ##*
cC5 6 7 1e-08

*## Multisim Component C4 ##*
cC4 5 6 1e-08

*## Multisim Component C3 ##*
cC3 3 0 4.7e-05

*## Multisim Component C2 ##*
cC2 5 2 0.47

*## Multisim Component C1 ##*
cC1 1 4 0.47

*## Multisim Component R4 ##*
rR4 2 0 4200 vresR4  
.model vresR4 r(  )

*## Multisim Component R3 ##*
rR3 VCC 2 22000 vresR3  
.model vresR3 r(  )

*## Multisim Component R1 ##*
rR1 VCC 1 1000 vresR1  
.model vresR1 r(  )

*## Multisim Component VCC ##*
VCCVCC  VCC 0 dc 12

*## Multisim Component Q1 ##*
qQ1 1 2 3 BC547A__BJT_NPN__1


.MODEL BC547A__BJT_NPN__1 npn
+IS=1.89314e-14 BF=1536.18 NF=0.942746 VAF=16.0274
+IKF=0.095245 ISE=4.13018e-14 NE=1.2599 BR=0.1
+NR=1.13089 VAR=1.05111 IKR=0.622681 ISC=1.79252e-14
+NC=2.7038 RB=3.11982 IRB=0.1 RBM=0.1
+RE=0.0001 RC=0.001 XTB=0.1 XTI=1
+EG=1.05 CJE=7.68434e-12 VJE=0.4 MJE=0.349069
+TF=5.80579e-10 XTF=4.00934 VTF=28.4173 ITF=0.176065
+CJC=3.9003e-12 VJC=0.821072 MJC=0.329281 XCJC=0.8
+FC=0.8 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1


