** Squarewave Generator **
* 
* NI Multisim to SPICE Netlist Export
* Generated by: levuo
* Mon, Jun 24, 2024 14:12:58 
*

*## Multisim Instrument XSC1 ##*


*## Multisim Component R3 ##*
* !!!BEGIN-INTERACT
*  : increment     ++++f4 ;
*  : setresistance ++++f6 ;
*  0.0             constant  mindval
*  100.0           constant  maxdval
*  0.0             VARIABLE  resistance
*  50.0            VARIABLE  setting
*  0.0             VARIABLE  setfactor
*  0.0             VARIABLE  zeroadj
*  0.0             VARIABLE  tresistance
*  0               VARIABLE  num_stored
*  0.0             VARIABLE  setresval
*  0	           VARIABLE  flag
*
*  :MAP_KEYBOARD_INPUT ++++k1 1 ++++K1  -1 ;
*
*  : UPDATE_SETTINGS
*      *flag 0 = if
*      LOAD_FICL_VARIABLES
*      ==>_*num_stored
*      ==>_*num_stored
*      *num_stored 0 > if
*         ==>_*setting 
*         ==>_*setresval
*         *setresval tresistance f./ ==>_*setfactor
*         *setresval SET_INSTANCE Resistor ::R R1  resistance
*         tresistance *setresval f.- SET_INSTANCE Resistor ::R R2  resistance
*      endif
*      1 ==>_*flag
*      endif
*      setresistance ==>_*tresistance
*      0.01 *setting f.* ==>_*zeroadj
*      *zeroadj PERCENT SET_ANIMATION_TEXT
*      0.0000001 0.9999999 *zeroadj f.min f.max  ==>_*setfactor
*      *setfactor *tresistance f.* resistance GRADUAL_CHANGE_AT_RUN
*      *setfactor tresistance f.* *setting 2 0
*      STORE_FICL_VARIABLES
*  ;
*
*  :GRADUAL_CHANGE_AT_RUN locals| ref value |
*    value                       SET_INSTANCE Resistor ::R R1  resistance
*    *tresistance  value f.-       SET_INSTANCE Resistor ::R R2  resistance
*  ;
*
*  :KEYBOARD_INPUT locals| shift_state |
*     shift_state (float) increment f.* *setting  f.+  ==>_*setting
*     mindval maxdval *setting f.min f.max ==>_*setting
*     UPDATE_SETTINGS
*  ;
*
*  :BEGIN_PLOT
*     UPDATE_SETTINGS
*  ;
*
*
*  : INIT_SLIDER
*      maxdval mindval 3 IMOUSE_SET
*  ;
*
*  : ON_IMOUSE_EVENT locals| eType fValue |
*    eType 9 = if
*      -1
*      fValue ==>_*setting
*    else
*      0
*    endif
*    UPDATE_SETTINGS
*  ;
*
*  : GET_INTERACT_VALUE locals| eType |
*      eType 0 = if
*        *setting
*      else eType 1 = if
*        mindval
*      else eType 2 = if
*        maxdval
*      else eType 3 = if
*        increment
*      else
*        0
*      endif endif endif endif
*  ;
*
*  : SET_INTERACT_VALUE locals| eType fValue |
*      eType 0 = if
*        fValue ==>_*setting
*      endif
*      UPDATE_SETTINGS
*  ;
*
*  :ON_USER_UPDATE
*    UPDATE_SETTINGS
*    INIT_SLIDER
*  ;
*
*  :BEGIN_ANALYSIS
*    UPDATE_SETTINGS
*  ;
*
* !!!END-INTERACT
xR3 3 R3_OPEN_2 2  PotentiometerR3
.subckt PotentiometerR3 1 2 3
R1 1 2  1e-3
R2 2 3  1e-3
.ends

*## Multisim Component R2 ##*
rR2 1 2 3100 vresR2  
.model vresR2 r(  )

*## Multisim Component R1 ##*
rR1 0 3 10000 vresR1  
.model vresR1 r(  )

*## Multisim Component VEE ##*
VEEVEE  VEE 0 dc -15

*## Multisim Component VCC ##*
VCCVCC  VCC 0 dc 15

*## Multisim Component C1 ##*
cC1 0 1 1e-07

*## Multisim Component U1 ##*
xU1 2 1 3 VEE VCC 741__OPAMP__1


.SUBCKT 741__OPAMP__1 1 2 3 4 5
* EWB Version 4 - 5 Terminal Opamp Model
* nodes: 3=+ 2=- 1=out 5=V+ 4=V-
* VCC= 15 VEE= -15 CC= 3e-011 A= 200000 RI= 2e+006
* RO= 75 VOS= 0.001 IOS= 2e-008 IBS= 8e-008
* VSW+= 14 VSW-= -14 CMMR= 90
* ISC= 0.025 SR= 0.5 Fu= 1e+006 Pm= 6.09112e-007
    VC 5 15 DC 1.68573V 
    VE 12 4 DC 1.68573V 
    IEE 10 4 DC 1.516e-005A
    R1  10  0 10Gohm 
    R6  11  0 100Kohm
    R7   5  4 1Kohm   
    Rc1  6  5 5305.16ohm  
    Rc2  5  7 5305.16ohm  
    Re1  9 10 1839.19ohm 
    Re2  8 10 1839.19ohm 
    Ro1  1 14 37.5ohm 
    Ro2 14  0 37.5ohm 
    Ree 10  0 1.31926e+007ohm 
    Rcc  0 13 2.20906e-005ohm 
    Cee  0 10 1e-012    
    Cc  14 11 3e-011    
    C1   6  7 1e-016    
    GA  11  0  6  7 0.000188496 
    GC   0 13  1  0 45268.1 
    GB  14  0 11  0 282.942 
    GCM  0 11 10  0 5.96075e-009 
    D1  14 13 Dopamp1 
    D2  13 14 Dopamp1 
    D3   1 15 Dopamp2 
    D4  12  1 Dopamp2 
    Qt1  6 2 9 Qopamp1 
    Qt2  7 3 8 Qopamp2 
.MODEL Dopamp1 D (Is=7.53769e-014A Rs=0 Cjo=0F Vj=750mV Tt=0s M=0)
.MODEL Dopamp2 D (Is=8e-016A Rs=0 Cjo=0F Vj=750mV Tt=0s M=0)
.MODEL Qopamp1 NPN (Is=8e-016A BF=83.3333 BR=960m
+       Rb=0ohm Re=0ohm Rc=0ohm Cjs=0F Cje=0F Cjc=0F
+       Vje=750m Vjc=750m Tf=0 Tr=0 mje=0 mjc=0 VA=50)
.MODEL Qopamp2 NPN (Is=8.30948e-016A BF=107.143 BR=960m
+       Rb=0ohm Re=0ohm Rc=0ohm Cjs=0F Cje=0F Cjc=0F
+       Vje=750m Vjc=750m Tf=0 Tr=0 mje=0 mjc=0 VA=50)
.ENDS


